US08138197B2
Methyl 1-methyl-3-phenyl-1H-indazole-6-carboxylate
In a 100-mL egg plant-type flask, PdCl2(dppf) (178 mg, 0.22 mmol) was added to a THF (20 mL)-water (2 mL) mixed solution of methyl 3-iodo-1-methyl-1H-indazole-6-carboxylate (690 mg, 22 mmol), phenylboric acid (399 mg, 3.27 mmol) and K2CO3 (1.35 g, 9.81 mmol), and stirred overnight at 80° C. in an argon atmosphere. This was diluted with ethyl acetate, washed with water and saturated saline water, dried with sodium sulfate, filtered and concentrated. The resulting crude product was purified through silica gel column chromatography to obtain the title compound.

reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | methyl 3-iodo-1-methyl-1H-indazole-6-carboxylate | 22 mmol, 690 mg | IC1=NN(C2=CC(=CC=C12)C(=O)OC)C | C10H9IN2O2
reactant | phenylboric acid | 3.27 mmol, 399 mg | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | K2CO3 | 9.81 mmol, 1.35 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 0.22 mmol, 178 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2 mL | O | H2O
product | Methyl 1-methyl-3-phenyl-1H-indazole-6-carboxylate | CN1N=C(C2=CC=C(C=C12)C(=O)OC)C1=CC=CC=C1 | C16H14N2O2
